US07851473B2
(2) 1-(3-Phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylic acid
A solution of ethyl 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylate (1.12 g, 3.53 mmol), an aqueous 2 N sodium hydroxide solution (4 ml), tetrahydrofuran (20 ml) and ethanol (12 ml) was stirred at 80° C. for 1 hour. Thereto 2 N hydrochloric acid (4 ml) was added and the solvent was distilled off under reduced pressure. The residue was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to yield 910 mg (89.2%) of the desired product.

reactant | ethyl 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylate | 3.53 mmol, 1.12 g | C1(=CC=CC=C1)C1=NSC(=N1)N1CCC(CC1)C(=O)OCC | C16H19N3O2S
reactant | sodium hydroxide | 2 N, 4 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2 N, 4 ml | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 1-(3-Phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylic acid | 910 mg, 89.2% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCC(CC1)C(=O)O | C14H15N3O2S
